US09359379B2
Alternative way to prepare Compound 543: first, 5-bromo-4-chloro-2-methoxypyridine was reacted with 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole under the standard Suzuki-Coupling condition to form 4-chloro-2-methoxy-5-(1-methyl-1H-pyrazol-4-yl)pyridine; then it was subject to HBr hydrolysis, followed by a second Suzuki-Coupling with (4-ethoxy-2-methylphenyl)boronic acid, then reaction with BnNH2 as described herein. Hydrogen chloride salt: 1H NMR (DMSO-d6, 400 MHz) 1H NMR (DMSO-d6, 400 MHz) δ 8.01 (s, 1H), 7.64 (s, 1H), 7.46 (s, 1H), 7.41-7.35 (m, 5H), 7.28 (m, 1H), 7.18 (d, J=8.8 Hz, 1H), 6.93 (s, 1H), 6.83 (d, J=8.8 Hz, 1H), 5.87 (s, 1H), 4.45 (s, 2H), 4.04 (q, J=6.8 Hz, 2H), 3.89 (s, 3H), 2.00 (s, 3H), 1.32 (t, J=6.8 Hz, 3H).

reactant | 5-bromo-4-chloro-2-methoxypyridine | BrC=1C(=CC(=NC1)OC)Cl | C6H5BrClNO
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
product | 4-chloro-2-methoxy-5-(1-methyl-1H-pyrazol-4-yl)pyridine | ClC1=CC(=NC=C1C=1C=NN(C1)C)OC | C10H10ClN3O
